US05798374
4-benzyl-3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]1,2,4-triazole (Compound 9)
The title compound was prepared in a manner similar to that described in Example 5 starting with benzyl isothiocyanate. The intermediate 4-benzyl-3-thiosemicarbazide (1.81 g) was treated with ethyl chloroformate (1.09 g) as in Example 5. The reaction product 4-benzyl-3-hydroxy-5-mercapto-1,2,4-triazole (1.04 g) was reacted with 1.05 g of 2-bromo-5-nitrothiazole as in Example 5. Crystallization from ethanol and water gave 0.3 g of 4-benzyl-3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]1,2,4-triazole, a yellow solid, MP 221°-224° C.

reactant | benzyl isothiocyanate | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | 4-benzyl-3-thiosemicarbazide | 1.81 g | C(C1=CC=CC=C1)NC(NN)=S | C8H11N3S
reactant | ethyl chloroformate | 1.09 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-benzyl-3-hydroxy-5-mercapto-1,2,4-triazole | 1.04 g | C(C1=CC=CC=C1)N1C(=NN=C1S)O | C9H9N3OS
reactant | 2-bromo-5-nitrothiazole | 1.05 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
product | 4-benzyl-3-hydroxy-5-[(5-nitrothiazol-2-yl)mercapto]1,2,4-triazole | 0.3 g | C(C1=CC=CC=C1)N1C(=NN=C1SC=1SC(=CN1)[N+](=O)[O-])O | C12H9N5O3S2
